US07795267B2
1,4-Bis(phenylmethyl)-2-piperazine carboxylic acid
To ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate dihydrochloride (21 g, 52 mmol) were added ethanol (300 mL) and a 1 M aqueous sodium hydroxide solution (300 mL, 0.30 mmol), and the mixture was stirred at 80° C. for 3 hours. The reaction solution was concentrated, and then 1 M hydrochloric acid was added thereto until the pH was adjusted to 5. The reaction solution was extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the resulting crystals was added diethyl ether, collected by filtration, and washed with diethyl ether to obtain the title compound (12 g, yield 76%).

reactant | ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate dihydrochloride | 52 mmol, 21 g | Cl.Cl.C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC
reactant | sodium hydroxide | 0.30 mmol, 1 M, 300 mL | [OH-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 1,4-Bis(phenylmethyl)-2-piperazine carboxylic acid | 12 g, yield 76% | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)O | C19H22N2O2
